US07968563B2
A solution of 2,4-dichloro-5,6-dimethyl-3-nitropyridine (40.0 g, 181 mmol), triethylamine (26.5 mL, 190 mmol), and isobutyl amine (18.9 mL, 190 mmol) in N,N-dimethylformamide (500 mL) was stirred at room temperature over night. The solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate (500 mL) and washed with water (3×80 mL) and brine (40 mL). The aqueous was extracted with ethyl acetate (3×50 mL) and the back-extracts washed with water (3×40 mL) and brine (30 mL). The combined organics were dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by HPFC eluting with a gradient of 10-30% ethyl acetate in hexanes to give 25.8 g of 2-chloro-N-isobutyl-5,6-dimethyl-3-nitropyridin-4-amine as a yellow oil.

reactant | 2,4-dichloro-5,6-dimethyl-3-nitropyridine | 181 mmol, 40.0 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])Cl)C)C | C7H6Cl2N2O2
reactant | triethylamine | 190 mmol, 26.5 mL | C(C)N(CC)CC | C6H15N
reactant | isobutyl amine | 190 mmol, 18.9 mL | C(C(C)C)N | C4H11N
solvent | N,N-dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
product | 2-chloro-N-isobutyl-5,6-dimethyl-3-nitropyridin-4-amine | 25.8 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])NCC(C)C)C)C | C11H16ClN3O2
